### PR TITLE
[Merged by Bors] - feat(SimpleGraph): Helper lemmas for Walk.take/drop

### PR DESCRIPTION
**Pull request by vlad902**
Contributing helper lemmas I needed when formalizing Cayley graphs.

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -898,6 +898,31 @@ def drop {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk (p.getVert n) v :=
...
+lemma drop_length {u v : V} (p : G.Walk u v) (n : ℕ) : (p.drop n).length = p.length - n := by
+  induction p generalizing n with
+  | nil => unfold drop; simp_all
+  | cons h q ih =>
+      unfold drop
+      by_cases h₂ : n = 0
+      · subst h₂
+        simp
+      · obtain ⟨_, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h₂
+        simp_all
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
  | nil => simp [drop]
  | cons => cases n <;> simp_all [drop]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -898,6 +898,31 @@ def drop {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk (p.getVert n) v :=
...
+    (p.drop n).getVert m = p.getVert (n + m) := by
+  induction p generalizing n with
+  | nil => unfold drop; simp_all
+  | cons h q ih =>
+      unfold drop
+      by_cases h₂ : n = 0
+      · subst h₂
+        simp
+      · obtain ⟨_, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h₂
+        simp_all [Nat.add_right_comm, getVert_cons_succ]
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
  | nil => simp [drop]
  | cons => cases n <;> simp_all [drop, Nat.add_right_comm]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 3]
```diff
@@ -915,6 +940,34 @@ def take {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk u (p.getVert n) :=
...
+lemma take_length {u v : V} (p : G.Walk u v) (n : ℕ) : (p.take n).length = n ⊓ p.length := by
+  induction p generalizing n with
+  | nil => unfold take; simp_all
+  | cons h q ih =>
+      unfold take
+      by_cases h₂ : n = 0
+      · subst h₂
+        simp
+      · obtain ⟨_, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h₂
+        simp_all
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
  | nil => simp [take]
  | cons => cases n <;> simp_all [take]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 4]
```diff
@@ -915,6 +940,34 @@ def take {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk u (p.getVert n) :=
...
+  | cons h q ih =>
+      unfold take
+      by_cases h₂ : n = 0
+      · subst h₂
+        simp
+      · obtain ⟨_, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h₂
+        by_cases h₃ : m = 0
+        · simp [h₃]
+        · obtain ⟨_, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h₃
+          simp_all
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
  | nil => simp [take]
  | cons => cases n <;> cases m <;> simp_all [take]
```

**Review by Rida-Hamadani — CHANGES_REQUESTED** [review]
Useful lemmas, I've been using them too in a project that hasn't been PR'd yet. Some notes:
- `unfold` is code-smell, avoid when possible. 
- `cases n` does a better job than `by_cases h : n = 0` here.

**Comment by vlad902** [comment]
Using cases here was much cleaner, thanks for showing me!

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 5]
```diff
@@ -898,6 +898,19 @@ def drop {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk (p.getVert n) v :=
   | p, 0 => p.copy (getVert_zero p).symm rfl
   | .cons _ q, (n + 1) => q.drop n
 
+@[simp]
+lemma drop_length {u v : V} (p : G.Walk u v) (n : ℕ) : (p.drop n).length = p.length - n := by
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Can you remove the `{u v}` implicit variables because they are already defined before in the file?
```suggestion
lemma drop_length (p : G.Walk u v) (n : ℕ) : (p.drop n).length = p.length - n := by
```

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: This also applies to the other lemmas.

**Review by Rida-Hamadani — APPROVED** [review]
LGTM

**Review by b-mehta — APPROVED** [review]
Sorry for the delay on this, thanks!

bors merge
